### PR TITLE
[Merged by Bors] - chore(SpecialFunctions/Log): transfer results from log to logb

### PR DESCRIPTION
**Pull request by b-mehta**
These are mostly transferred directly, except for `continuousAt_logb_iff` which needs different handling since it's not always true.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean [hunk 1]
```diff
@@ -104,8 +104,8 @@ theorem div_logb {a b c : ℝ} (h₁ : c ≠ 0) (h₂ : c ≠ 1) (h₃ : c ≠ -
 theorem logb_rpow_eq_mul_logb_of_pos (hx : 0 < x) : logb b (x ^ y) = y * logb b x := by
   rw [logb, log_rpow hx, logb, mul_div_assoc]
 
-theorem logb_pow {k : ℕ} (hx : 0 < x) : logb b (x ^ k) = k * logb b x := by
-  rw [← rpow_natCast, logb_rpow_eq_mul_logb_of_pos hx]
+theorem logb_pow {k : ℕ} : logb b (x ^ k) = k * logb b x := by
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean:107]: Good point!

Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:107]:
```suggestion
theorem logb_pow (b x : ℝ) (k : ℕ) : logb b (x ^ k) = k * logb b x := by
```

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean [hunk 2]
```diff
@@ -397,7 +397,47 @@ theorem logb_eq_zero : logb b x = 0 ↔ b = 0 ∨ b = 1 ∨ b = -1 ∨ x = 0 ∨
...
+  tendsto_log_nhdsWithin_zero_right.atBot_div_const (log_pos hb)
+
+lemma tendsto_logb_nhdsWithin_zero_right_of_base_lt_one (hb₀ : 0 < b) (hb : b < 1) :
+    Tendsto (logb b) (𝓝[>] 0) atTop :=
+  tendsto_log_nhdsWithin_zero_right.atBot_mul_const_of_neg (inv_lt_zero.2 (log_neg hb₀ hb))
+
+theorem continuousOn_logb : ContinuousOn (logb b) {0}ᶜ := continuousOn_log.div_const _
+
+/-- The real logarithm base b is continuous as a function from nonzero reals. -/
+@[continuity]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:418]: Do you really want this as a `continuity` lemma? I would suggest marking it `fun_prop` instead, but I don't see that as being particularly useful either. I simply suspect that this is never going to be useful as a continuity lemma. 
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean [hunk 3]
```diff
@@ -397,7 +397,47 @@ theorem logb_eq_zero : logb b x = 0 ↔ b = 0 ∨ b = 1 ∨ b = -1 ∨ x = 0 ∨
...
+theorem continuous_logb : Continuous fun x : { x : ℝ // x ≠ 0 } => logb b x :=
+  continuous_log.div_const _
+
+/-- The real logarithm base b is continuous as a function from positive reals. -/
+@[continuity]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:423]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean [hunk 4]
```diff
@@ -397,7 +397,47 @@ theorem logb_eq_zero : logb b x = 0 ↔ b = 0 ∨ b = 1 ∨ b = -1 ∨ x = 0 ∨
...
+theorem continuous_logb' : Continuous fun x : { x : ℝ // 0 < x } => logb b x :=
+  continuous_log'.div_const _
+
+theorem continuousAt_logb (hx : x ≠ 0) : ContinuousAt (logb b) x :=
+  (continuousAt_log hx).div_const _
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:428]: If you write this in compositional form this would be a nice `fun_prop` lemma. That is:
```lean
theorem ContinuousAt.logb {f : α → ℝ} {x : α} (hf : ContinuousAt f x) (hx : f x ≠ 0) :
    ContinuousAt (fun y ↦ logb b (f y)) x :=
  sorry
```
Of course, this probably also applies to `continuousAt_log`

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 5]
```diff
@@ -324,10 +324,12 @@ theorem continuousOn_log : ContinuousOn log {0}ᶜ := by
   conv in log _ => rw [log_of_ne_zero (show (x : ℝ) ≠ 0 from x.2)]
   exact expOrderIso.symm.continuous.comp (continuous_subtype_val.norm.subtype_mk _)
 
+/-- The real logarithm is continuous as a function from nonzero reals. -/
 @[continuity]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:328]: As I argue above, I suspect this is not useful (but I'm happy to be proven wrong).
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 6]
```diff
@@ -324,10 +324,12 @@ theorem continuousOn_log : ContinuousOn log {0}ᶜ := by
...
 theorem continuous_log : Continuous fun x : { x : ℝ // x ≠ 0 } => log x :=
   continuousOn_iff_continuous_restrict.1 <| continuousOn_log.mono fun _ => id
 
+/-- The real logarithm is continuous as a function from positive reals. -/
 @[continuity]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:333]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean [hunk 7]
```diff
@@ -407,6 +447,16 @@ theorem logb_prod {α : Type*} (s : Finset α) (f : α → ℝ) (hf : ∀ x ∈
...
 
+protected theorem _root_.Finsupp.logb_prod {α β : Type*} [Zero β] (f : α →₀ β) (g : α → β → ℝ)
+    (hg : ∀ a, g a (f a) = 0 → f a = 0) : logb b (f.prod g) = f.sum fun a c ↦ logb b (g a c) :=
+  logb_prod _ _ fun _x hx h₀ ↦ Finsupp.mem_support_iff.1 hx <| hg _ h₀
+
+theorem logb_nat_eq_sum_factorization (n : ℕ) :
+    logb b n = n.factorization.sum fun p t => t * logb b p := by
+  simp only [logb, mul_div_assoc', log_nat_eq_sum_factorization n, Finsupp.sum, Finset.sum_div]
+
+-- TODO add other limits and continuous API lemmas analogous to those in Log.lean
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:458]: I didn't check. What's still missing?

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean:428]: This is one of the lemmas I haven't transferred yet in this PR, it'll be in the next PR in this series. `ContinuousAt.log` exists, and is a `fun_prop` lemma, but for ease of review I decided to separate it out.

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean (hunk 7 above)
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Log/Base.lean:458]:
```suggestion
-- TODO add other limits and continuous API lemmas analogous to those in Log/Basic.lean
```

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean]: Could you clarify your question? The remaining lemmas can be found in the referenced file; I have only changed this comment to follow the file rename. Would you like me to list all of the missing lemmas?

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean:418]: I kept the `continuity` tag to mimic how it's done for `Real.log`. Would you prefer me to introduce a series of inconsistencies here?

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean:418]: Oops, I just noticed you also suggested making the change there too! I'm testing to see what breaks if we remove it, and will check back here afterwards. I'm inclined to agree the tag in both places is useless, but let's see. That said, it could be nice as a discoverability tool - it's not like this is gonna slow down `fun_prop` a lot, but if someone happens to be in the case where they really are working with functions to/from `{ x : ℝ // 0 < x }`, then having `fun_prop` do this automatically does seem valuable.

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean]: Seems to work! Let's go for it :)

File: Mathlib/Analysis/SpecialFunctions/Log/Base.lean (hunk 7 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/Log/Base.lean:460]: No, sorry, I shouldn't have been lazy. My apologies.

**Comment by j-loreaux** [comment]
@b-mehta sorry for being lazy and not checking the `log` results. I'm happy with this now, especially since there will be a follow-up PR.

bors merge
